US05538939
3-Methyl-4-isothiocyanato-5-pivaloylaminoisothiazole
16.7 g of 5-amino-4-isothiocyanato-3-methylisothiazole and 0.5 g of dimethylaminopyridine are dissolved in a mixture of 100 ml of toluene and 100 ml of pyridine, and 15.9 g of pivaloyl chloride are added. Stirring is carried out for 16 hours at 80° C., the solution is evaporated to dryness, the residue is taken up in ethyl acetate and the solution is extracted with aqueous sodium bicarbonate solution and 10% strength hydrochloric acid. The organic phase is dried and evaporated down.

reactant | 5-amino-4-isothiocyanato-3-methylisothiazole | 16.7 g | NC1=C(C(=NS1)C)N=C=S | C5H5N3S2
reactant | dimethylaminopyridine | 0.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | pivaloyl chloride | 15.9 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-4-isothiocyanato-5-pivaloylaminoisothiazole | CC1=NSC(=C1N=C=S)NC(C(C)(C)C)=O | C10H13N3OS2
